2149-08-12 06:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-11**]
   -slow leak from fem line, need to pull and re-address access.
   -pt self-extubated during rounds on [**8-11**], re-intubated for acidemia
   -echo: mild LVH, nl EF, elevated PCWP
   -family mtg: would like to keep pt DNR, ok to intubate.  Grandaughter
   is health care proxy.  [**Name (NI) 19**] son is coming from Vancouver on Thursday.
   -final CT reads pending
   -[**8-10**] blood cx with 1/4 GPC in pairs and clusters
   -hypoK-given 60 meq, f/u 1200 lab
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-8-12**] 04:00 AM
   Vancomycin - [**2149-8-12**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2149-8-11**] 04:25 PM
   Midazolam (Versed) - [**2149-8-11**] 04:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-12**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.5
   HR: 43 (43 - 91) bpm
   BP: 122/51(67) {91/40(58) - 154/109(112)} mmHg
   RR: 12 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,594 mL
                                                                    369 mL
   PO:
             TF:
   IVF:
                                                                  1,514 mL
                                                                    369 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    700 mL
   Urine:
                                                                  1,410 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    184 mL
                                                                   -331 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 400 (350 - 400) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.18/77/80.[**Numeric Identifier 500**]/26/-1
   Ve: 4.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   GENERAL: sedated, intubated, responds to verbal stimuli
   HEENT: Normocephalic, atraumatic, No scleral icterus. PERRLA/EOMI. MMM.
   OP clear.  Neck Supple, No LAD, No thyromegaly.
   CARDIAC: Regular rhythm, bradycardia. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**]
   LUNGS: equal  air movement biaterally.
   ABDOMEN: tense, +BS, no appreciable hepatosplenomegaly
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.  Left femoral line in place, oozing blood
   SKIN: enlarging ecchymoses
   NEURO: unable to fully assess, +left foot drop, +flexion of upper
   extremities
   Labs / Radiology
   113 K/uL
   10.2 g/dL
   72 mg/dL
   0.8 mg/dL
   26 mEq/L
   2.4 mEq/L
   27 mg/dL
   111 mEq/L
   145 mEq/L
   33.0 %
   5.6 K/uL
        [image002.jpg]
   Echo: mild LVH, preserved EF, moderate TR with pulmonary artery
   stenosis
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
   WBC
   7.2
   7.9
   5.6
   Hct
   35.0
   37.6
   33.0
   Plt
   91
   133
   113
   Cr
   1.1
   1.1
   0.8
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:6.4 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   87 yo Cantonese Speaking woman with dementia, h/o CVA, HTN,
   hyponatremia (thought [**3-17**] SIADH), who was brought to the ED by her
   family for lethargy, found to be in acute respiratory distress, and was
   intubated.
   .
   # Respiratory failure:  Current sating 100% on FiO2 40%, PEEP 5.
   Re-intubated yesterday after self extubation [**3-17**] acidemia likely due to
   hypoventilation.  Hypoventilation may have been caused by
   deconditioning or sedation.  There does not appear to be profound
   intrapulmonary process.  L-sided effusion appears greatly improved from
   [**2149-8-2**].  R pleural effusion persists though likely not large enough to
   cause agonal breathing.  The lung parenchyma itself does not appear
   markedly abnormal --no ground glass opacity on CT chest, no suggestion
   of overt pulm edema on CXR.  [**Month (only) 11**] consider PE given marked [**Last Name (un) **] (though
   prior ECGs show bilateral AE, no ECHO in system).  Has a history of
   COPD, hyperinflated on CXR.
   - grandson asked to hold off on diagnostic [**Female First Name (un) 231**]
   - cont. vanc/zosyn to cover HAP
   - f/u CT chest with contrast for ?PE
   - cont. ipratropium/albuterol nebulizers for COPD
   #Bradycardia: likely [**3-17**] cardiac dysfunction.  While patient was
   initially hemodynamically stable, urine output is diminishing and
   condition is deteriorating
   -EKG to assess for sinal node block
   -check TSH for concern of hypothyroidism
   -limit  sedatives without compromising patient comfort
   -family does not wish to escalate care: no pressors, transcutaneous
   pacing, atropine, etc.
   # Hypotension:  This is likely multifactorial in setting of poor po
   intake, bradycardia, possible sepsis.  Also concern for sepsis given
   lactate but otherwise no leukocytosis, tachycardia, fever.  Possible
   sources of infection include empyema, pneumonia, UTI.
   - IVF boluses prn
   - check U/A, UCx
   - follow up Bcxs
   - check LFTs (lipase nl)
   - cont. vanc/zosyn
   .
   # Coagulopathy:  Etiology likely [**3-17**] DIC- elevated PTT, INR, low
   platelets, low HCT (baseline is 40), and low fibrinogen.  Liver
   dysfunction may also be possible etiology of coagulopathy.
   - give 2 units FFP, given vitamin K
   -pull femoral line, no central access necessary as patient does not
   wish to escalate care
   .
   # Acidemia:  Pt has a respiratory acidosis (?chronic as baseline bicarb
   seems to be high 30s) as well as a lactic acidosis.
   - [**Month (only) 11**] allow higher PCO2
   - IVFs for lactic acidosis
   .
   # ARF:  Baseline Cr is 0.8.  This is likely due to hypovolemia in the
   setting of poor po intake v. ATN from cardiac arrest.  Also on
   levofloxacin as outpatient.  Had IV contrast for CT torso, so may
   worsen.
   - IVFs
   - renally dose meds, avoid nephrotoxins
   .
   # Transaminitis:  [**Month (only) 11**] be from shock liver from cardiac arrest.
   - hepatitis panel is pending
   - may be etiology of coagulopathy
   .
   # Anemia/Thrombocytopenia:  Baseline HCT is 40.
   - T&S
   - remove femoral line and obtain adequate hemostasis
   .
   # Hypertension:
   - antihypertensives previously held
   .
   # Hypercholesterolemia:
   - d/ced simvastatin
   .
   # Osteoporosis:
   - cont. calcium, vitamin D
   .
   # Communication: Discussed goals of care with family.  Although they
   expressed wish  for son to see patient, they do not wish to escalate
   care.  No pressors, transcutaneous pacing, CPR, etc.  Once the central
   line is removed, the family understands that it may not be possible to
   obtain labs to monitor the patient.  They understand that the patient
   clinical status is deteriorating.  Grandson [**Doctor Last Name 6971**] can be reached by
   phone: C - [**Telephone/Fax (1) 6980**]; H - [**Telephone/Fax (1) 6981**].
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-11**] 02:04 AM
   18 Gauge - [**2149-8-11**] 02:26 PM
   20 Gauge - [**2149-8-11**] 02:27 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2149-08-12 16:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Self-extubated yesterday.  Required reintubation for ventilatory
   failure.
   Remains intubated, mechanically ventilated.
   Exhibited progressive bradycardia overnight, without hemodynamic
   compromise.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy, Dementia
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2149-8-12**] 05:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-8-12**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Bradycardia
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-8-12**] 04:55 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.2
C (95.4
   HR: 44 (43 - 67) bpm
   BP: 122/50(67) {97/40(58) - 143/109(112)} mmHg
   RR: 12 (12 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 44.9 kg (admission): 44.4 kg
           Total In:
                                                                  1,594 mL
                                                                  1,310 mL
   PO:
           TF:
   IVF:
                                                                  1,514 mL
                                                                  1,188 mL
   Blood products:
   122 mL
   Total out:
                                                                  1,410 mL
                                                                    975 mL
   Urine:
                                                                  1,410 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    184 mL
                                                                    335 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Frail-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, Ecchymosis, dispersed,
   including left periorbital
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   113 K/uL
   72 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.8 mEq/L
   27 mg/dL
   106 mEq/L
   142 mEq/L
   33.0 %
   5.6 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
   WBC
   7.2
   7.9
   5.6
   Hct
   35.0
   37.6
   33.0
   Plt
   91
   133
   113
   Cr
   1.1
   1.1
   0.8
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:6.4 mg/dL, Mg++:1.7 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- unclear precipitant.  Intubated for agonal
   breathing.  No evidence for pneumonia/ infection, sepsis, pulmonary
   embolism.  Possible dysrhythmia, cardiac arrest (less likely) or
   neurological event (CVA or seizure).  Unclear whether underlying lung
   disease.  Plan continue mechanical ventilation, adjust working towards
   SBT and extubation (previously DNR/DNI).  Assess for cardiac event.
   Consider head CT and EEG.
   PULSELESS ARREST -- Unclear whether related to precipitant for
   admission, or possibly related to induction and intubation event.
   Currently stabalized without further hemodynamic complications.
   Possible evolving sepsis.  Monitor.  Assess for cardiac injury.
   Consider cardiac echo.  Consider neurological evaluation including head
   CT and EEG.  No CPR.
   BRADYCARDIA
 unclear etiology.  Concerns include hypothyroidism
   (hypothermia, bradycardia, thyroid mass), or intrisic cardiac
   conduction disease.  Plan check cardiac echo and TSH.
   DILATED RIGHT ATRIUM
 may represent right-side valvular heart disease
   or pulmonary hypertension.  Will check echo.
   HYPOTENSION -- unclear whether related to hypovolemia, underlying
   process prompting admission, or related to induction/intubation.
   Unclear sepsis source, but empirical coverage with antimicrobials.
   Monitor BP, maintain MAP >60 mmHg.
   HYPOCALCEMIA -- Replete.  Monitor ionized Ca++.
   LACTIC ACID ELEVATION -- mild, likely hypoperfusion.  Resolving.
   Monitor abd exam for possible ischemia.  Monitor.
   LFT ELEVATION
 Resolving.  Unclear etiology.  Mild LFT elevation in
   recent past.  Possibly shock liver from hypotension.  No obvious
   pathology identified by abd CT, but need to await final
   interpretation).  Plan to trend serial LFTs, check amylase, lipase.
   Consider RUQ U/S.
   FLUIDS -- hypovolemia.  Improved with aggressive  iv repletion in ER.
   Monitor I/O.
   IV ACCESS -- Left femoral line.  As per family discussion, will d/c and
   use peripheral iv.  No plan for central lines.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2149-8-11**] 02:04 AM
   18 Gauge - [**2149-8-11**] 02:26 PM
   20 Gauge - [**2149-8-11**] 02:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-08-13 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Family decided not to escalate care: no pressors, no central access, no
   CPR
   Patient remains bradycardiac but hemodynamically stable
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2149-8-12**] 05:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-8-13**] 03:25 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-8-13**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-13**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 43 (40 - 62) bpm
   BP: 138/49(82) {97/42(61) - 158/78(96)} mmHg
   RR: 12 (12 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 44.9 kg (admission): 44.4 kg
             Total In:
                                                                  2,038 mL
                                                                    328 mL
   PO:
             TF:
   IVF:
                                                                  1,462 mL
                                                                    328 mL
   Blood products:
                                                                    576 mL
   Total out:
                                                                  1,395 mL
                                                                  1,040 mL
   Urine:
                                                                  1,395 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    643 mL
                                                                   -712 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 248 (248 - 248) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 5 L/min
   Physical Examination
   PHYSICAL EXAM
   GENERAL: intubated, sedated, responds to light touch
   HEENT: Normocephalic, atraumatic. No scleral icterus. PERRLA.  Neck
   Supple, No LAD, Nopalpable  thyromegaly.
   CARDIAC: Regular rhythm, bradycardic. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: equal air movement bilaterally, coarse upper airway sounds
   throughout
   ABDOMEN: NABS. Soft, NT, ND.  No HSM, left femoral line site c/d/i
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: diffuse ecchymoses, increasing in size
   NEURO: unable to fully assess
   Labs / Radiology
   94 K/uL
   9.5 g/dL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   67
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Hepatitis Panel: negative HBsAg, HBVAb, HCV; positive HAV Ab
   Blood cx: [**8-10**] GPC in chains and clusters
   TSH = 28
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   87 yo Cantonese Speaking woman with dementia, h/o CVA, HTN,
   hyponatremia (thought [**3-17**] SIADH), who was brought to the ED by her
   family for lethargy, found to be in acute respiratory distress, and was
   intubated.
   .
   # Respiratory failure:  Current sating 100% on FiO2 40%, PEEP 5.
   Re-intubated yesterday after self extubation [**3-17**] acidemia likely due to
   hypoventilation.  Hypoventilation may have been caused by
   deconditioning or sedation.  There does not appear to be profound
   intrapulmonary process.  L-sided effusion appears greatly improved from
   [**2149-8-2**].  R pleural effusion persists though likely not large enough to
   cause agonal breathing.  The lung parenchyma itself does not appear
   markedly abnormal --no ground glass opacity on CT chest, no suggestion
   of overt pulm edema on CXR.  [**Month (only) 11**] consider PE given marked [**Last Name (un) **] (though
   prior ECGs show bilateral AE, no ECHO in system).  Has a history of
   COPD, hyperinflated on CXR.
   - grandson asked to hold off on diagnostic [**Female First Name (un) 231**]
   - cont. vanc/zosyn to cover HAP
   - f/u CT chest with contrast for ?PE
   - cont. ipratropium/albuterol nebulizers for COPD
   #Bradycardia: likely [**3-17**] cardiac dysfunction.  While patient was
   initially hemodynamically stable, urine output is diminishing and
   condition is deteriorating
   -EKG to assess for sinal node block
   -check TSH for concern of hypothyroidism
   -limit  sedatives without compromising patient comfort
   -family does not wish to escalate care: no pressors, transcutaneous
   pacing, atropine, etc.
   # Hypotension:  This is likely multifactorial in setting of poor po
   intake, bradycardia, possible sepsis.  Also concern for sepsis given
   lactate but otherwise no leukocytosis, tachycardia, fever.  Possible
   sources of infection include empyema, pneumonia, UTI.
   - IVF boluses prn
   - check U/A, UCx
   - follow up Bcxs
   - check LFTs (lipase nl)
   - cont. vanc/zosyn
   .
   # Coagulopathy:  Etiology likely [**3-17**] DIC- elevated PTT, INR, low
   platelets, low HCT (baseline is 40), and low fibrinogen.  Liver
   dysfunction may also be possible etiology of coagulopathy.
   - give 2 units FFP, given vitamin K
   -pull femoral line, no central access necessary as patient does not
   wish to escalate care
   .
   # Acidemia:  Pt has a respiratory acidosis (?chronic as baseline bicarb
   seems to be high 30s) as well as a lactic acidosis.
   - [**Month (only) 11**] allow higher PCO2
   - IVFs for lactic acidosis
   .
   # ARF:  Baseline Cr is 0.8.  This is likely due to hypovolemia in the
   setting of poor po intake v. ATN from cardiac arrest.  Also on
   levofloxacin as outpatient.  Had IV contrast for CT torso, so may
   worsen.
   - IVFs
   - renally dose meds, avoid nephrotoxins
   .
   # Transaminitis:  [**Month (only) 11**] be from shock liver from cardiac arrest.
   - hepatitis panel is pending
   - may be etiology of coagulopathy
   .
   # Anemia/Thrombocytopenia:  Baseline HCT is 40.
   - T&S
   - remove femoral line and obtain adequate hemostasis
   .
   # Hypertension:
   - antihypertensives previously held
   .
   # Hypercholesterolemia:
   - d/ced simvastatin
   .
   # Osteoporosis:
   - cont. calcium, vitamin D
   .
   # Communication: Discussed goals of care with family.  Although they
   expressed wish  for son to see patient, they do not wish to escalate
   care.  No pressors, transcutaneous pacing, CPR, etc.  Once the central
   line is removed, the family understands that it may not be possible to
   obtain labs to monitor the patient.  They understand that the patient
   clinical status is deteriorating.  Grandson [**Doctor Last Name 6971**] can be reached by
   phone: C - [**Telephone/Fax (1) 6980**]; H - [**Telephone/Fax (1) 6981**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   20 Gauge - [**2149-8-11**] 02:27 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: With family. Grandson [**Doctor Last Name 6971**] can be reached
   by phone: C - [**Telephone/Fax (1) 6980**]; H - [**Telephone/Fax (1) 6981**].
   - granddaughter [**Name (NI) 6979**] (HCP) [**Telephone/Fax (1) 6981**] (h) or [**Telephone/Fax (1) 7030**] (w)
   Code status: DNR (do not resuscitate)
   Disposition:

2149-08-13 12:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   TSH noted as >25 --> initiated thyroid replacment.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2149-8-12**] 05:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-8-13**] 03:25 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-8-13**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-8-13**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.2
C (95.3
   HR: 41 (40 - 62) bpm
   BP: 131/57(73) {103/42(61) - 158/78(96)} mmHg
   RR: 12 (12 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 44.9 kg (admission): 44.4 kg
             Total In:
                                                                  2,038 mL
                                                                    444 mL
   PO:
             TF:
   IVF:
                                                                  1,462 mL
                                                                    444 mL
   Blood products:
                                                                    576 mL
   Total out:
                                                                  1,395 mL
                                                                  1,260 mL
   Urine:
                                                                  1,395 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    643 mL
                                                                   -816 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 248 (248 - 248) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 4.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Thin
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   94 K/uL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   67
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- unclear precipitant.  Intubated for agonal
   breathing.  No evidence for pneumonia/ infection, sepsis, pulmonary
   embolism.  Possible dysrhythmia, cardiac arrest (less likely) or
   neurological event (CVA or seizure).  Unclear whether underlying lung
   disease.  Plan continue mechanical ventilation, adjust working towards
   SBT and extubation (previously DNR/DNI).  Assess for cardiac event.
   Consider head CT and EEG.
   PULSELESS ARREST -- Unclear whether related to precipitant for
   admission, or possibly related to induction and intubation event.
   Currently stabalized without further hemodynamic complications.
   Possible evolving sepsis.  Monitor.  Assess for cardiac injury.
   Consider cardiac echo.  Consider neurological evaluation including head
   CT and EEG.  No CPR.
   BRADYCARDIA
 unclear etiology, but possible related to hypothyroidism
   (hypothermia, bradycardia, thyroid mass), or intrisic cardiac
   conduction disease.  Plan check cardiac echo and TSH.
   HYPOTHYROIDISM
 TSH > 25.  [**Month (only) 11**] be contributing to bradycardia.
   Replace with iv synthroid.
   BACTEREMIA -- GPC from ER blood culture.  Continue Vancomycin
   DILATED RIGHT ATRIUM
 may represent right-side valvular heart disease
   or pulmonary hypertension.  Will check echo.
   HYPOTENSION -- unclear whether related to hypovolemia, underlying
   process prompting admission, or related to induction/intubation.
   Sepsis source may be bacteremia
 continue antimicrobials. Monitor BP,
   maintain MAP >60 mmHg.
   HYPOCALCEMIA -- Replete.  Monitor ionized Ca++.
   LACTIC ACID ELEVATION -- mild, likely hypoperfusion.  Resolving.
   Monitor abd exam for possible ischemia.  Monitor.
   LFT ELEVATION
 Resolving.  Unclear etiology.  Mild LFT elevation in
   recent past.  Possibly shock liver from hypotension.  No obvious
   pathology identified by abd CT, but need to await final
   interpretation).  Plan to trend serial LFTs, check amylase, lipase.
   Consider RUQ U/S.
   FLUIDS -- hypovolemia.  Improved with aggressive  iv repletion in ER.
   Monitor I/O.
   IV ACCESS -- Left femoral line.  As per family discussion, will d/c and
   use peripheral iv.  No plan for central lines.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   20 Gauge - [**2149-8-11**] 02:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-08-14 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress, intubate
   24 Hour Events:
   - remains bradycardic, hemodynamically stable
   - continue 85cc/hr D5NS for maitenence fluids and nutrition
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2149-8-12**] 05:00 AM (day 1 [**8-11**])
   Piperacillin/Tazobactam (Zosyn) - [**2149-8-14**] 04:30 AM (day 1 [**8-11**])
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-8-13**] 07:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-14**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.3
C (95.5
   HR: 45 (40 - 52) bpm
   BP: 130/53(73) {118/45(62) - 154/109(118)} mmHg
   RR: 12 (12 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 44.9 kg (admission): 44.4 kg
             Total In:
                                                                  1,540 mL
                                                                    700 mL
   PO:
             TF:
   IVF:
                                                                  1,540 mL
                                                                    700 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                    440 mL
   Urine:
                                                                  1,820 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -280 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 5 L/min
   Physical Examination
   Physical Exam:
   Vitals: T: BP: P: R: 18 O2:
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   94 K/uL
   9.5 g/dL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   67
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   87 yo Cantonese Speaking woman with dementia, h/o CVA, HTN,
   hyponatremia (thought [**3-17**] SIADH), who was brought to the ED by her
   family for lethargy, found to be in acute respiratory distress, and was
   intubated.
   .
   # Respiratory failure:  Current sating 100% on FiO2 40%, PEEP 5.
   Re-intubated yesterday after self extubation [**3-17**] acidemia likely due to
   hypoventilation.  Hypoventilation may have been caused by
   deconditioning or sedation.  There does not appear to be profound
   intrapulmonary process.  L-sided effusion appears greatly improved from
   [**2149-8-2**].  R pleural effusion persists though likely not large enough to
   cause agonal breathing.  The lung parenchyma itself does not appear
   markedly abnormal --no ground glass opacity on CT chest, no suggestion
   of overt pulm edema on CXR.  [**Month (only) 11**] consider PE given marked [**Last Name (un) **] (though
   prior ECGs show bilateral AE, no ECHO in system).  Has a history of
   COPD, hyperinflated on CXR.
   - grandson asked to hold off on diagnostic [**Female First Name (un) 231**]
   - cont. vanc/zosyn to cover HAP
   - cont. ipratropium/albuterol nebulizers for COPD
   -limit sedation as much as possible
   #Bradycardia: likely [**3-17**] cardiac dysfunction and hypothyroidism.  The
   patient remains hemodynamically stable with adequate urine output
   -continue levothyroxine 25 mg IV
   -limit  sedatives without compromising patient comfort
   -family does not wish to escalate care: no pressors, transcutaneous
   pacing, atropine, etc.
   # Hypotension:  This is likely multifactorial in setting of poor po
   intake, bradycardia, possible sepsis.  Concern for sepsis given lactate
   and bacteremia (GPC in clusters and pairs) but otherwise no
   leukocytosis, tachycardia, fever.  Possible sources of infection
   include empyema, pneumonia, UTI.
   - IVF boluses prn
   - check U/A, UCx
   - GPC in clusters and chains: continue vancomycin
   .
   # Coagulopathy:  Etiology likely [**3-17**] DIC- elevated PTT, INR, low
   platelets, low HCT (baseline is 40), and low fibrinogen.  Liver
   dysfunction may also be possible etiology of coagulopathy.  No active
   bleeding after 2 units FFP and s/p removal of femoral line
   - continue vitamin K
   .
   # Acidemia:  Pt has a respiratory acidosis (?chronic as baseline bicarb
   seems to be high 30s) as well as a lactic acidosis.
   - [**Month (only) 11**] allow higher PCO2
   - IVFs for lactic acidosis
   .
   # ARF:  Baseline Cr is 0.8.  This is likely due to hypovolemia in the
   setting of poor po intake v. ATN from cardiac arrest.  Also on
   levofloxacin as outpatient.  Had IV contrast for CT torso, so may
   worsen.
   - IVFs
   - renally dose meds, avoid nephrotoxins
   .
   # Transaminitis:  [**Month (only) 11**] be from shock liver from cardiac arrest.
   - hepatitis panel is pending
   - may be etiology of coagulopathy
   .
   # Anemia/Thrombocytopenia:  Baseline HCT is 40.
   - T&S
   - remove femoral line and obtain adequate hemostasis
   .
   # Hypertension:
   - antihypertensives previously held
   .
   # Hypercholesterolemia:
   - d/ced simvastatin
   .
   # Osteoporosis: d/c calcium, vitamin D
   .
   # Communication: Discussed goals of care with family.  Although they
   expressed wish  for son to see patient, they do not wish to escalate
   care.  No pressors, transcutaneous pacing, CPR, etc.  Once the central
   line is removed, the family understands that it may not be possible to
   obtain labs to monitor the patient.  They understand that the patient
   clinical status is deteriorating.  Grandson [**Doctor Last Name 6971**] can be reached by
   phone: C - [**Telephone/Fax (1) 6980**]; H - [**Telephone/Fax (1) 6981**].
   ICU Care
   ICU Care
   Nutrition: Add D5W to any fluid boluses
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   20 Gauge - [**2149-8-11**] 02:27 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: With family. Grandson [**Doctor Last Name 6971**] can be reached
   by phone: C - [**Telephone/Fax (1) 6980**]; H - [**Telephone/Fax (1) 6981**].
   - granddaughter [**Name (NI) 6979**] (HCP) [**Telephone/Fax (1) 6981**] (h) or [**Telephone/Fax (1) 7030**] (w)
   Code status: DNR (do not resuscitate)
   Disposition:

2149-08-14 11:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Attempting to self-extubate.  Required acute bolus sedation.
   Appears comfortable.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2149-8-12**] 05:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2149-8-14**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: Agitated, No(t) Suicidal, No(t) Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2149-8-14**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 46 (40 - 52) bpm
   BP: 144/52(74) {106/45(61) - 155/109(118)} mmHg
   RR: 12 (12 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 45 kg (admission): 44.4 kg
             Total In:
                                                                  1,540 mL
                                                                  1,153 mL
   PO:
             TF:
   IVF:
                                                                  1,540 mL
                                                                  1,153 mL
   Blood products:
   Total out:
                                                                  1,820 mL
                                                                  1,160 mL
   Urine:
                                                                  1,820 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -280 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 4.8 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic,
   Chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   94 K/uL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   67
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- unclear precipitant.  Intubated for agonal
   breathing.  No evidence for pneumonia/ infection, sepsis, pulmonary
   embolism.  Possible dysrhythmia, cardiac arrest (less likely) or
   neurological event (CVA or seizure).  Unclear whether underlying lung
   disease.  Plan continue mechanical ventilation, adjust working towards
   SBT and extubation (previously DNR/DNI).  Assess for cardiac event.
   Consider head CT and EEG.
   PULSELESS ARREST -- Unclear whether related to precipitant for
   admission, or possibly related to induction and intubation event.
   Currently stabalized without further hemodynamic complications.
   Possible evolving sepsis.  Monitor.  Assess for cardiac injury.
   Consider cardiac echo.  Consider neurological evaluation including head
   CT and EEG.  No CPR.
   BRADYCARDIA
 unclear etiology, but possible related to hypothyroidism
   (hypothermia, bradycardia, thyroid mass), or intrisic cardiac
   conduction disease.  Plan check cardiac echo and TSH.
   HYPOTHYROIDISM
 TSH > 25.  [**Month (only) 11**] be contributing to bradycardia.
   Replace with iv synthroid.
   BACTEREMIA -- GPC from ER blood culture.  Continue Vancomycin
   DILATED RIGHT ATRIUM
 may represent right-side valvular heart disease
   or pulmonary hypertension.  Will check echo.
   HYPOTENSION -- unclear whether related to hypovolemia, underlying
   process prompting admission, or related to induction/intubation.
   Sepsis source may be bacteremia
 continue antimicrobials. Monitor BP,
   maintain MAP >60 mmHg.
   HYPOCALCEMIA -- Replete.  Monitor ionized Ca++.
   LACTIC ACID ELEVATION -- mild, likely hypoperfusion.  Resolving.
   Monitor abd exam for possible ischemia.  Monitor.
   LFT ELEVATION
 Resolving.  Unclear etiology.  Mild LFT elevation in
   recent past.  Possibly shock liver from hypotension.  No obvious
   pathology identified by abd CT, but need to await final
   interpretation).  Plan to trend serial LFTs, check amylase, lipase.
   Consider RUQ U/S.
   FLUIDS -- hypovolemia.  Improved with aggressive  iv repletion in ER.
   Monitor I/O.
   IV ACCESS -- Left femoral line.  As per family discussion, will d/c and
   use peripheral iv.  No plan for central lines.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   20 Gauge - [**2149-8-11**] 02:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2149-08-15 06:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - family meeting, son visited, family not ready to extubate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-8-15**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-15**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.6
   HR: 46 (46 - 53) bpm
   BP: 124/45(64) {101/40(55) - 174/64(90)} mmHg
   RR: 12 (12 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 45 kg (admission): 44.4 kg
             Total In:
                                                                  2,315 mL
                                                                    612 mL
   PO:
             TF:
   IVF:
                                                                  2,315 mL
                                                                    612 mL
   Blood products:
   Total out:
                                                                  3,160 mL
                                                                  1,870 mL
   Urine:
                                                                  3,160 mL
                                                                  1,870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -845 mL
                                                                 -1,258 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: CMO
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 4.6 L/min
   Physical Examination
   GENERAL: Pleasant, well appearing ..... in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**2-14**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   94 K/uL
   9.5 g/dL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   67
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   87 yo Cantonese Speaking woman with dementia, h/o CVA, HTN,
   hyponatremia (thought [**3-17**] SIADH), who was brought to the ED by her
   family for lethargy, found to be in acute respiratory distress, and was
   intubated.
   .
   # Respiratory failure:  Current stable on volume assist FiO2 50%, PEEP
   5.  Hypoventilation may have been caused by deconditioning or sedation;
   there does not appear to be profound intrapulmonary process.  No new
   xray, but hx of bilateral effusions.  The lung parenchyma itself does
   not appear markedly abnormal --no ground glass opacity on CT chest, no
   suggestion of overt pulm edema on CXR.  [**Month (only) 11**] consider PE given marked
   [**Last Name (un) **] (though prior ECGs show bilateral AE, recent echo shows mildly
   dilated RA), however low Well
s score at this time.  Has a history of
   COPD, hyperinflated on CXR.
   - family mtg today to discuss goals of care
   - cont. vanc/zosyn to cover HAP
   - cont. ipratropium/albuterol nebulizers for COPD
   - limit sedation as much as possible
   #Bradycardia: likely [**3-17**] cardiac dysfunction and hypothyroidism.  The
   patient remains hemodynamically stable with adequate urine output.
   -continue levothyroxine 25 mg IV, will require f/u TSH
   -limit sedatives without compromising patient comfort
   -family does not wish to escalate care: no pressors, transcutaneous
   pacing, atropine, etc.
   # Hypotension:  This is likely multifactorial in setting of poor po
   intake, bradycardia, possible sepsis.  Concern for sepsis given lactate
   and bacteremia (GPC in clusters and pairs) but otherwise no
   leukocytosis, tachycardia, fever.  Possible sources of infection
   include empyema, pneumonia, UTI.
   - IVF boluses prn
   - check U/A, UCx
   - GPC in clusters and chains: continue vancomycin
   .
   # Coagulopathy:  Etiology likely [**3-17**] DIC- elevated PTT, INR, low
   platelets, low HCT (baseline is 40), and low fibrinogen.  Liver
   dysfunction may also be possible etiology of coagulopathy.  No active
   bleeding after 2 units FFP and s/p removal of femoral line.
   .
   # Acidemia:  Pt has a respiratory acidosis (?chronic as baseline bicarb
   seems to be high 30s) as well as a lactic acidosis.  No recent blood
   gases given that art line dc
   - [**Month (only) 11**] allow higher PCO2
   - IVFs for lactic acidosis
   .
   # ARF:  Baseline Cr is 0.8.  This is likely due to hypovolemia in the
   setting of poor po intake v. ATN from cardiac arrest.  Also on
   levofloxacin as outpatient.  Had IV contrast for CT torso, so may
   worsen.
   - IVFs
   - renally dose meds, avoid nephrotoxins
   .
   # Transaminitis:  [**Month (only) 11**] be from shock liver from cardiac arrest.
   - liver enzymes trending down
   - may be etiology of coagulopathy
   .
   # Anemia/Thrombocytopenia:  Baseline HCT is 40.
   - T&S
   - femoral line removed yesterday, crit stabilized
   - will hold on following crits for now as pt is stable with poor access
   since removal of fem line.
   .
   # Hypertension:
   - antihypertensives held as pressures are stable
   .
   # Hypercholesterolemia:
   - d/c
d simvastatin for elevated LFTs
   .
   # Osteoporosis: d/c calcium, vitamin D
   .
   # Communication: Discussed goals of care with family.  Although they
   expressed wish for son to see patient, they do not wish to escalate
   care.  No pressors, transcutaneous pacing, CPR, etc.  Once the central
   line is removed, the family understands that it may not be possible to
   obtain labs to monitor the patient.  They understand that the patient
   clinical status is deteriorating.  Grandson [**Doctor Last Name 6971**] can be reached by
   phone: C - [**Telephone/Fax (1) 6980**]; H - [**Telephone/Fax (1) 6981**].
   ICU Care
   ICU Care
   Nutrition: Add D5W to any fluid boluses
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   20 Gauge - [**2149-8-11**] 02:27 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: With family. Grandson [**Doctor Last Name 6971**] can be reached
   by phone: C - [**Telephone/Fax (1) 6980**]; H - [**Telephone/Fax (1) 6981**].
   - granddaughter [**Name (NI) 6979**] (HCP) [**Telephone/Fax (1) 6981**] (h) or [**Telephone/Fax (1) 7030**] (w)
   Code status: DNR (do not resuscitate)
   Disposition:

2149-08-15 08:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-8-15**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-15**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.1
C (96.9
   HR: 47 (46 - 53) bpm
   BP: 125/52(69) {101/40(55) - 174/64(90)} mmHg
   RR: 12 (12 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 45 kg (admission): 44.4 kg
             Total In:
                                                                  2,315 mL
                                                                    757 mL
   PO:
             TF:
   IVF:
                                                                  2,315 mL
                                                                    757 mL
   Blood products:
   Total out:
                                                                  3,160 mL
                                                                  1,870 mL
   Urine:
                                                                  3,160 mL
                                                                  1,870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -845 mL
                                                                 -1,113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: CMO
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: ////
   Ve: 4.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   94 K/uL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   67
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- unclear precipitant.  Intubated for agonal
   breathing.  No evidence for pneumonia/ infection, sepsis, pulmonary
   embolism.  Possible dysrhythmia, cardiac arrest (less likely) or
   neurological event (CVA or seizure).  Unclear whether underlying lung
   disease.  Plan continue mechanical ventilation while awaiting final
   family decision regarding extubation and comfort care.
   PULSELESS ARREST -- Unclear whether related to precipitant for
   admission, or possibly related to induction and intubation event.
   Currently stabalized without further hemodynamic complications.
   Possible evolving sepsis.  Monitor.  Assess for cardiac injury.
   Consider cardiac echo.  Consider neurological evaluation including head
   CT and EEG.  No CPR.
   BRADYCARDIA
 unclear etiology, but possible related to hypothyroidism
   (hypothermia, bradycardia, thyroid mass), or intrisic cardiac
   conduction disease.  Plan check cardiac echo and TSH.
   HYPOTHYROIDISM
 TSH > 25.  [**Month (only) 11**] be contributing to bradycardia.
   Replace with iv synthroid.
   BACTEREMIA -- GPC from ER blood culture.  Continue Vancomycin
   DILATED RIGHT ATRIUM
 may represent right-side valvular heart disease
   or pulmonary hypertension.  Will check echo.
   HYPOTENSION -- unclear whether related to hypovolemia, underlying
   process prompting admission, or related to induction/intubation.
   Sepsis source may be bacteremia
 continue antimicrobials. Monitor BP,
   maintain MAP >60 mmHg.
   HYPOCALCEMIA -- Replete.  Monitor ionized Ca++.
   LACTIC ACID ELEVATION -- mild, likely hypoperfusion.  Resolving.
   Monitor abd exam for possible ischemia.  Monitor.
   LFT ELEVATION
 Resolving.  Unclear etiology.  Mild LFT elevation in
   recent past.  Possibly shock liver from hypotension.  No obvious
   pathology identified by abd CT, but need to await final
   interpretation).  Plan to trend serial LFTs, check amylase, lipase.
   Consider RUQ U/S.
   FLUIDS -- hypovolemia.  Improved with aggressive  iv repletion in ER.
   Monitor I/O
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   20 Gauge - [**2149-8-11**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2149-08-16 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**8-15**]
   - family planned to extubate, sedation stopped, pt became hypertensive
   and family decided to postpone extubation until [**8-16**].  sedation
   restarted and titrated up, now normotensive.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-8-15**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2149-8-15**] 11:26 PM
   Midazolam (Versed) - [**2149-8-15**] 11:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-16**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 46 (45 - 79) bpm
   BP: 129/51(70) {107/47(62) - 184/79(107)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 45 kg (admission): 44.4 kg
             Total In:
                                                                    802 mL
                                                                     13 mL
   PO:
             TF:
   IVF:
                                                                    802 mL
                                                                     13 mL
   Blood products:
   Total out:
                                                                  4,055 mL
                                                                    380 mL
   Urine:
                                                                  4,055 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,253 mL
                                                                   -367 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 401) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 4.8 L/min
   Physical Examination
   GENERAL: Pleasant, well appearing ..... in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**2-14**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   94 K/uL
   9.5 g/dL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   67
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   87 yo Cantonese Speaking woman with dementia, h/o CVA, HTN,
   hyponatremia (thought [**3-17**] SIADH), who was brought to the ED by her
   family for lethargy, found to be in acute respiratory distress, and was
   intubated.
   .
   # Respiratory failure:  Current stable on volume assist FiO2 50%, PEEP
   5.  Hypoventilation may have been caused by deconditioning or sedation;
   there does not appear to be profound intrapulmonary process.  No new
   xray, but hx of bilateral effusions.  The lung parenchyma itself does
   not appear markedly abnormal --no ground glass opacity on CT chest, no
   suggestion of overt pulm edema on CXR, therefore will dc abx.  [**Month (only) 11**]
   consider PE given marked [**Last Name (un) **] (though prior ECGs show bilateral AE,
   recent echo shows mildly dilated RA), however low Well
s score at this
   time.  Has a history of COPD, hyperinflated on CXR.
   - will continue discussion with family in regards to pt
s stated
   DNR/DNI status.
   - PS trial, wean sedation
   - dc vanc/zosyn
   - cont. ipratropium/albuterol nebulizers for COPD
   - limit sedation as much as possible
   #Bradycardia: likely [**3-17**] cardiac dysfunction and hypothyroidism.  The
   patient remains hemodynamically stable with adequate urine output.
   -continue levothyroxine 12.5 mg IV, will require f/u TSH
   -limit sedatives without compromising patient comfort
   -family does not wish to escalate care: no pressors, transcutaneous
   pacing, atropine, etc.
   # Hypotension:  Has been stable recently.  This is likely
   multifactorial in setting of poor po intake, bradycardia, possible
   sepsis.  Concern for sepsis given lactate and bacteremia (GPC in
   clusters and pairs) but otherwise no leukocytosis, tachycardia, fever.
   Possible sources of infection include empyema, pneumonia, UTI.
   - IVF boluses prn
   - check U/A, UCx
   - GPC in clusters and chains likely a contaminant, dc vanco
   .
   # Coagulopathy:  Etiology likely [**3-17**] DIC- elevated PTT, INR, low
   platelets, low HCT (baseline is 40), and low fibrinogen.  Liver
   dysfunction may also be possible etiology of coagulopathy.  No active
   bleeding after 2 units FFP and s/p removal of femoral line.
   .
   # Acidemia:  Pt had a respiratory acidosis (?chronic as baseline bicarb
   seems to be high 30s) as well as a lactic acidosis.
   -continue holding monitoring for now given family wishes to dc blood
   draws.
   .
   # ARF:  Baseline Cr is 0.8.  This is likely due to hypovolemia in the
   setting of poor po intake v. ATN from cardiac arrest.  Also was on
   levofloxacin as outpatient.  Had IV contrast for CT torso, so may
   worsen.
   - IVFs
   - renally dose meds, avoid nephrotoxins
   .
   # Transaminitis:  [**Month (only) 11**] be from shock liver from cardiac arrest.
   - liver enzymes were trending down, not currently monitoring
   - may be etiology of coagulopathy
   .
   # Anemia/Thrombocytopenia:  Baseline HCT is 40.
   - T&S
   - crit stable following fem line removal
   - will hold on following crits for now as pt is stable with poor access
   since removal of fem line.
   .
   # Hypertension:
   - antihypertensives held as pressures are stable
   .
   # Hypercholesterolemia:
   - d/c
d simvastatin for elevated LFTs
   .
   # Osteoporosis: d/c calcium, vitamin D
   .
   # Communication: Discussed goals of care with family.  Although they
   expressed wish for son to see patient, they do not wish to escalate
   care.  No pressors, transcutaneous pacing, CPR, etc.  Once the central
   line is removed, the family understands that it may not be possible to
   obtain labs to monitor the patient.  They understand that the patient
   clinical status is deteriorating.  Will revisit DNR/DNI status today.
   Grandson [**Doctor Last Name 6971**] can be reached by phone: C - [**Telephone/Fax (1) 6980**]; H -
   [**Telephone/Fax (1) 6981**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2149-08-16 08:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-8-15**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2149-8-15**] 11:26 PM
   Midazolam (Versed) - [**2149-8-15**] 11:27 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-16**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 47 (45 - 79) bpm
   BP: 132/51(70) {107/47(62) - 184/79(107)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 45 kg (admission): 44.4 kg
             Total In:
                                                                    802 mL
                                                                     16 mL
   PO:
             TF:
   IVF:
                                                                    802 mL
                                                                     16 mL
   Blood products:
   Total out:
                                                                  4,055 mL
                                                                    495 mL
   Urine:
                                                                  4,055 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,253 mL
                                                                   -479 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 401) mL
   RR (Set): 12
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 1.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   94 K/uL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   67
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- unclear precipitant.  Intubated for agonal
   breathing.  No evidence for pneumonia/ infection, sepsis, pulmonary
   embolism.  Possible dysrhythmia, cardiac arrest (less likely) or
   neurological event (CVA or seizure).  Unclear whether underlying lung
   disease.  Will wean vent as tolerated, stop abx
   PULSELESS ARREST -- Unclear whether related to precipitant for
   admission, or possibly related to induction and intubation event.
   Currently stabalized without further hemodynamic complications.
   Possible evolving sepsis.  Monitor.  Assess for cardiac injury.
   Consider cardiac echo.  Consider neurological evaluation including head
   CT and EEG.  No CPR.
   BRADYCARDIA
 unclear etiology, but possible related to hypothyroidism
   (hypothermia, bradycardia, thyroid mass), or intrisic cardiac
   conduction disease.  follow
   HYPOTHYROIDISM
 TSH > 25.  [**Month (only) 11**] be contributing to bradycardia.
   Replace with iv synthroid.
   BACTEREMIA
 CNS from ER blood culture. Stop abx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2149-08-17 05:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress, intubated
   24 Hour Events:
   [**8-16**]
   -urine output decreasing
   -family still deciding whether they would like to terminally extubate
   -extensive discussion with family who has decided to make patient CMO
   but not to terminally wean off the vent
   - profound bradycardia and hypotension in the am, improved after
   lightening sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-8-15**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-8-16**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-17**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 90 (41 - 90) bpm
   BP: 147/56(79) {91/39(52) - 172/71(96)} mmHg
   RR: 24 (5 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45 kg (admission): 44.4 kg
             Total In:
                                                                    106 mL
                                                                     11 mL
   PO:
             TF:
   IVF:
                                                                     76 mL
                                                                     11 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    200 mL
   Urine:
                                                                    595 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -489 mL
                                                                   -189 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 223 (187 - 448) mL
   PS : 10 cmH2O
   RR (Set): 6
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 2.7 L/min
   Physical Examination
   GENERAL: Pleasant, well appearing ..... in NAD
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].  JVP=
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**2-14**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   .
   Labs / Radiology
   94 K/uL
   9.5 g/dL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   67
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   87 yo Cantonese Speaking woman with dementia, h/o CVA, HTN,
   hyponatremia (thought [**3-17**] SIADH), who was brought to the ED by her
   family for lethargy, found to be in acute respiratory distress, and was
   intubated.
   .
   # Respiratory failure:  Current stable on volume assist FiO2 50%, PEEP
   5.  Hypoventilation may have been caused by deconditioning or sedation;
   there does not appear to be profound intrapulmonary process.  No new
   xray, but hx of bilateral effusions.  The lung parenchyma itself does
   not appear markedly abnormal --no ground glass opacity on CT chest, no
   suggestion of overt pulm edema on CXR, therefore will dc abx.  [**Month (only) 11**]
   consider PE given marked [**Last Name (un) **] (though prior ECGs show bilateral AE,
   recent echo shows mildly dilated RA), however low Well
s score at this
   time.  Has a history of COPD, hyperinflated on CXR.
   - will continue discussion with family in regards to pt
s stated
   DNR/DNI status.
   - PS trial, wean sedation
   - d/ced vanc/zosyn
   - cont. ipratropium/albuterol nebulizers for COPD
   #Bradycardia: likely [**3-17**] cardiac dysfunction and hypothyroidism.  The
   patient remains hemodynamically stable with adequate urine output.
   -continue levothyroxine 12.5 mg IV, will require f/u TSH
   -limit sedatives without compromising patient comfort
   -family does not wish to escalate care: no pressors, transcutaneous
   pacing, atropine, etc.
   # Hypotension:  Has been stable recently.  This is likely
   multifactorial in setting of poor po intake, bradycardia, possible
   sepsis.  Concern for sepsis given lactate and bacteremia (GPC in
   clusters and pairs) but otherwise no leukocytosis, tachycardia, fever.
   Possible sources of infection include empyema, pneumonia, UTI.
   - IVF boluses prn hypotension or low urine output
   - GPC in clusters and chains likely a contaminant, dc vanco
   .
   # Coagulopathy:  Etiology likely [**3-17**] DIC- elevated PTT, INR, low
   platelets, low HCT (baseline is 40), and low fibrinogen.  Liver
   dysfunction may also be possible etiology of coagulopathy.  No active
   bleeding after 2 units FFP and s/p removal of femoral line.
   .
   # Acidemia:  Pt had a respiratory acidosis (?chronic as baseline bicarb
   seems to be high 30s) as well as a lactic acidosis.
   -continue holding monitoring for now given family wishes to d/c blood
   draws.
   .
   # ARF:  Baseline Cr is 0.8.  This is likely due to hypovolemia in the
   setting of poor po intake v. ATN from cardiac arrest.  Also was on
   levofloxacin as outpatient.  Had IV contrast for CT torso, so may
   worsen.
   - IVFs
   - renally dose meds, avoid nephrotoxins
   -continue hold on monitoring as pt, family has decided to d/c blood
   draws
   .
   # Transaminitis:  [**Month (only) 11**] be from shock liver from cardiac arrest.
   - liver enzymes were trending down, not currently monitoring
   - may be etiology of coagulopathy
   .
   # Anemia/Thrombocytopenia:  Baseline HCT is 40.
   - T&S
   - crit stable following fem line removal
   - will hold on following crits for now as pt is stable with poor access
   since removal of fem line.
   .
   # Hypertension:
   - antihypertensives held as pressures are stable
   .
   # Hypercholesterolemia:
   - d/c
d simvastatin for elevated LFTs
   .
   # Osteoporosis: d/ced calcium, vitamin D
   .
   # Communication: Discussed goals of care with family.  No pressors,
   transcutaneous pacing, CPR, etc.  The central line has been removed,
   and the family understands that it may not be possible to obtain labs
   to monitor the patient.  They understand that the patient
s clinical
   status is deteriorating.  Will revisit DNR/DNI status today.  Plan to
   terminally extube Grandson [**Doctor Last Name 6971**] can be reached by phone: C -
   [**Telephone/Fax (1) 6980**]; H - [**Telephone/Fax (1) 6981**].
   ICU Care
   Nutrition: NPO, nutrition consult if patient is not made CMO
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate) ; family may make CMO today
   Disposition:

2149-08-17 07:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2149-8-15**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-8-16**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-17**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.5
   HR: 57 (41 - 90) bpm
   BP: 148/58(79) {91/39(52) - 172/71(96)} mmHg
   RR: 23 (5 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 45 kg (admission): 44.4 kg
             Total In:
                                                                    106 mL
                                                                     13 mL
   PO:
             TF:
   IVF:
                                                                     76 mL
                                                                     13 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    200 mL
   Urine:
                                                                    595 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -489 mL
                                                                   -187 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 223 (187 - 448) mL
   PS : 10 cmH2O
   RR (Set): 6
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 2.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   94 K/uL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   67
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- unclear precipitant.  Intubated for agonal
   breathing.  No evidence for pneumonia/ infection, sepsis, pulmonary
   embolism.  Possible dysrhythmia, cardiac arrest (less likely) or
   neurological event (CVA or seizure).  Unclear whether underlying lung
   disease.  Will wean vent as tolerated, re-explore extubation with
   family today
    BRADYCARDIA
 unclear etiology, but possible related to hypothyroidism
   (hypothermia, bradycardia, thyroid mass), or intrisic cardiac
   conduction disease.  follow
   HYPOTHYROIDISM
 TSH > 25.  [**Month (only) 11**] be contributing to bradycardia.
   Replace with iv synthroid.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   22 Gauge - [**2149-8-16**] 09:17 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2149-08-18 06:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 35 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-18**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 48 (39 - 90) bpm
   BP: 123/45(63) {73/30(41) - 170/61(81)} mmHg
   RR: 20 (6 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 45 kg (admission): 44.4 kg
             Total In:
                                                                    535 mL
                                                                    310 mL
   PO:
             TF:
   IVF:
                                                                    535 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                      0 mL
   Urine:
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     40 mL
                                                                    311 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 426 (275 - 494) mL
   PS : 10 cmH2O
   RR (Set): 6
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 2.3 L/min
   Physical Examination
   GENERAL: sedated, nonresponsive
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/
    CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: wheezes/rhonchi throughout
   ABDOMEN: NABS. Soft, NT, ND.  No HSM, ? sister [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] nodule
   EXTREMITIES: no edema, 2+ dorsalis pedis/ posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: sedated, nonresponsive
   Labs / Radiology
   94 K/uL
   9.5 g/dL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   67
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   87 yo Cantonese Speaking woman with dementia, h/o CVA, HTN,
   hyponatremia (thought [**3-17**] SIADH), who was brought to the ED by her
   family for lethargy, found to be in acute respiratory distress, and was
   intubated.
   .
   # Respiratory failure:  Current stable on volume assist FiO2 40%, PEEP
   5.  Hypoventilation may have been caused by deconditioning or sedation;
   there does not appear to be profound intrapulmonary process.  No new
   xray, but hx of bilateral effusions.  The lung parenchyma itself does
   not appear markedly abnormal --no ground glass opacity on CT chest, no
   suggestion of overt pulm edema on CXR, therefore will dc abx.  [**Month (only) 11**]
   consider PE given marked [**Last Name (un) **] (though prior ECGs show bilateral AE,
   recent echo shows mildly dilated RA), however low Well
s score at this
   time.  Has a history of COPD, hyperinflated on CXR.
   - will continue goal of care discussions with family.  Pt made CMO
   yesterday
   - continue current vent strategy
   - no abx at this time given CMO status
   - cont. ipratropium/albuterol nebulizers for COPD
   #Bradycardia: likely [**3-17**] cardiac dysfunction and hypothyroidism.  Will
   hold UOP monitoring at this time given CMO status
   -limit sedatives without compromising patient comfort
   -family does not wish to escalate care: no pressors, transcutaneous
   pacing, atropine, etc.
   # Labile BP:  Has been stable-hypertensive recently, although hx of
   hypotension in the past.  This is likely multifactorial in setting of
   poor po intake, bradycardia, possible sepsis, sedative use, diminished
   kidney function.  There was initial concern for sepsis given lactate
   and bacteremia (GPC in clusters and pairs) but otherwise no
   leukocytosis, tachycardia, fever.
   - GPC in clusters and chains likely a contaminant, holding abx given
   CMO
   - hold pressors given CMO status
   .
   # Coagulopathy:  Etiology likely [**3-17**] DIC- elevated PTT, INR, low
   platelets, low HCT (baseline is 40), and low fibrinogen.  Liver
   dysfunction may also be possible etiology of coagulopathy.  No active
   bleeding after 2 units FFP and s/p removal of femoral line.
hold
   further blood draws given CMO status.
   .
   # Acidemia:  Pt had a respiratory acidosis (?chronic as baseline bicarb
   seems to be high 30s) as well as a lactic acidosis.
   -continue holding monitoring for now given family wishes to d/c blood
   draws.
   .
   # ARF:  Baseline Cr is 0.8.  This is likely due to hypovolemia in the
   setting of poor po intake v. ATN from cardiac arrest.  Also was on
   levofloxacin as outpatient.  Had IV contrast for CT torso, so may
   worsen.
   - holding IVFs, UOP, blood monitoring given CMO status
   - renally dose meds, avoid nephrotoxins
   .
   # Transaminitis:  [**Month (only) 11**] be from shock liver from cardiac arrest.
   - liver enzymes were trending down, not currently monitoring
   - may be etiology of coagulopathy
   .
   # Anemia/Thrombocytopenia:  Baseline HCT is 40.
   - T&S
   - crit stable following fem line removal
   - will hold on following crits for now as pt is stable with poor access
   since removal of fem line.
   .
   # Hypercholesterolemia:
   - d/c
d simvastatin for elevated LFTs
   .
   # Osteoporosis: d/ced calcium, vitamin D
   .
   # Communication: Discussed goals of care with family.  No pressors,
   transcutaneous pacing, CPR, etc.  The central line has been removed,
   and the family understands that it may not be possible to obtain labs
   to monitor the patient.  They understand that the patient
s clinical
   status is deteriorating.  Pt made CMO yesterday ([**8-17**]), although family
   does not wish to extubate at this time.  Will continue discussion with
   son [**Doctor Last Name 6971**] can be reached by phone: C - [**Telephone/Fax (1) 6980**]; H -
   [**Telephone/Fax (1) 6981**], and grandaughter (HCP), [**Name (NI) 6979**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   22 Gauge - [**2149-8-16**] 09:17 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2149-08-18 14:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Sitched to MMV overnight due to apneic events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-18**] 02:28 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 58 (46 - 68) bpm
   BP: 111/37(55) {78/30(43) - 170/55(81)} mmHg
   RR: 5 (5 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 45 kg (admission): 44.4 kg
             Total In:
                                                                    535 mL
                                                                    741 mL
   PO:
             TF:
   IVF:
                                                                    535 mL
                                                                    741 mL
   Blood products:
   Total out:
                                                                    495 mL
                                                                    150 mL
   Urine:
                                                                    495 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     40 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 370 (190 - 494) mL
   PS : 10 cmH2O
   RR (Set): 6
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 2.5 L/min
   Physical Examination
   GENERAL: sedated, nonresponsive
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/
    CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: wheezes/rhonchi throughout
   ABDOMEN: NABS. Soft, NT, ND.  No HSM, ? sister [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] nodule
   EXTREMITIES: no edema, 2+ dorsalis pedis/ posterior tibial pulses.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: sedated, nonresponsive
   Labs / Radiology
   94 K/uL
   9.5 g/dL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   Glucose
   121
   92
   72
   67
   Other labs: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:2.0
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   87 yo Cantonese Speaking woman with dementia, h/o CVA, HTN,
   hyponatremia (thought [**3-17**] SIADH), who was brought to the ED by her
   family for lethargy, found to be in acute respiratory distress, and was
   intubated.
   .
   # Respiratory failure:  Current stable on volume assist FiO2 40%, PEEP
   5.  Hypoventilation may have been caused by deconditioning or sedation;
   there does not appear to be profound intrapulmonary process.  No new
   xray, but hx of bilateral effusions.  The lung parenchyma itself does
   not appear markedly abnormal --no ground glass opacity on CT chest, no
   suggestion of overt pulm edema on CXR, therefore will dc abx.  [**Month (only) 11**]
   consider PE given marked [**Last Name (un) **] (though prior ECGs show bilateral AE,
   recent echo shows mildly dilated RA), however low Well
s score at this
   time.  Has a history of COPD, hyperinflated on CXR.
   - will continue goal of care discussions with family.  Pt made CMO
   yesterday
   - continue current vent strategy
   - no abx at this time given CMO status
   - cont. ipratropium/albuterol nebulizers for COPD
   #Bradycardia: likely [**3-17**] cardiac dysfunction and hypothyroidism.  Will
   hold UOP monitoring at this time given CMO status
   -limit sedatives without compromising patient comfort
   -family does not wish to escalate care: no pressors, transcutaneous
   pacing, atropine, etc.
   # Labile BP:  Has been stable-hypertensive recently, although hx of
   hypotension in the past.  This is likely multifactorial in setting of
   poor po intake, bradycardia, possible sepsis, sedative use, diminished
   kidney function.  There was initial concern for sepsis given lactate
   and bacteremia (GPC in clusters and pairs) but otherwise no
   leukocytosis, tachycardia, fever.
   - GPC in clusters and chains likely a contaminant, holding abx given
   CMO
   - hold pressors given CMO status
   .
   # Coagulopathy:  Etiology likely [**3-17**] DIC- elevated PTT, INR, low
   platelets, low HCT (baseline is 40), and low fibrinogen.  Liver
   dysfunction may also be possible etiology of coagulopathy.  No active
   bleeding after 2 units FFP and s/p removal of femoral line.
hold
   further blood draws given CMO status.
   .
   # Acidemia:  Pt had a respiratory acidosis (?chronic as baseline bicarb
   seems to be high 30s) as well as a lactic acidosis.
   -continue holding monitoring for now given family wishes to d/c blood
   draws.
   .
   # ARF:  Baseline Cr is 0.8.  This is likely due to hypovolemia in the
   setting of poor po intake v. ATN from cardiac arrest.  Also was on
   levofloxacin as outpatient.  Had IV contrast for CT torso, so may
   worsen.
   - holding IVFs, UOP, blood monitoring given CMO status
   - renally dose meds, avoid nephrotoxins
   .
   # Transaminitis:  [**Month (only) 11**] be from shock liver from cardiac arrest.
   - liver enzymes were trending down, not currently monitoring
   - may be etiology of coagulopathy
   .
   # Anemia/Thrombocytopenia:  Baseline HCT is 40.
   - T&S
   - crit stable following fem line removal
   - will hold on following crits for now as pt is stable with poor access
   since removal of fem line.
   .
   # Hypercholesterolemia:
   - d/c
d simvastatin for elevated LFTs
   .
   # Osteoporosis: d/ced calcium, vitamin D
   .
   # Communication: Discussed goals of care with family.  No pressors,
   transcutaneous pacing, CPR, etc.  The central line has been removed,
   and the family understands that it may not be possible to obtain labs
   to monitor the patient.  They understand that the patient
s clinical
   status is deteriorating.  Pt made CMO yesterday ([**8-17**]), although family
   does not wish to extubate at this time.  Will continue discussion with
   son [**Doctor Last Name 6971**] can be reached by phone: C - [**Telephone/Fax (1) 6980**]; H -
   [**Telephone/Fax (1) 6981**], and grandaughter (HCP), [**Name (NI) 6979**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   22 Gauge - [**2149-8-16**] 09:17 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2149-08-19 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - on PSV 5/5 for approx 7-8 hours yesterday but had apneic spells with
   desats during night, so switched to MMV.
   - spoke with family about goals of care
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-19**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 66 (47 - 93) bpm
   BP: 120/42(61) {78/30(43) - 146/98(80)} mmHg
   RR: 14 (0 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45 kg (admission): 44.4 kg
             Total In:
                                                                  1,223 mL
                                                                    288 mL
   PO:
             TF:
   IVF:
                                                                  1,223 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                    260 mL
                                                                    100 mL
   Urine:
                                                                    260 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    963 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 320 (320 - 370) mL
   PS : 5 cmH2O
   RR (Set): 6
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.34/39/55//-4   (10pm [**2149-8-18**])
   Ve: 4.7 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Physical unchanged from [**8-18**]
   GENERAL: sedated, nonresponsive, lying on side
   HEENT: PERRL, MMM, ETT secure in place,
    CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: clear to auscultation bilaterally, occasional wheeze in all lung
   fields
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: dependent edema, 2+ dorsalis pedis/ posterior tibial
   pulses. No clubbing, no cyanosis.
   SKIN: warm and well perfused.  No ecchymoses.
   NEURO: sedated, nonresponsive
   [**Last Name (un) 610**] / Radiology
   94 K/uL
   9.5 g/dL
   67 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:09 AM
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
                             [**2149-8-18**]  10:51 PM
   WBC
   7.2
   7.9
   5.6
   5.1
   Hct
   35.0
   37.6
   33.0
   30.0
   Plt
   91
   133
   113
   94
   Cr
   1.1
   1.1
   0.8
   0.9
   TropT
   0.13
   0.13
   0.11
   TCO2
   26
   26
   30
   22
   Glucose
   121
   92
   72
   67
   Other [**Year (4 digits) **]: PT / PTT / INR:15.9/35.4/1.4, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:684/602, Alk Phos / T Bili:29/0.6,
   Differential-Neuts:85.0 %, Band:0.0 %, Lymph:10.0 %, Mono:5.0 %,
   Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122 mg/dL, Lactic Acid:1.1
   mmol/L, Albumin:2.9 g/dL, LDH:335 IU/L, Ca++:7.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   87 yo Cantonese Speaking woman with dementia, h/o CVA, HTN,
   hyponatremia (thought [**3-17**] SIADH), who was brought to the ED by her
   family for lethargy, found to be in acute respiratory distress, and was
   intubated.
   The team has been speaking extensively to family members about goals of
   care for Mrs. [**Known lastname 7156**].  While she is not comfort measures only, the
   family has expressed that they want limited care for the Mr. [**Known lastname 7156**].
   # Respiratory failure:  Pt tolerated PSV for approx 7-8 hours
   yesterday, but overnight, experienced apneic events lasting 60 seconds
   long with desaturation into the 30%
s ([**Name8 (MD) 24**] RN report).  Apnea alarm was
   set at 60 seconds.  Currently trying to evaluate if patient is
   clinically eligible to be extubated.  No new xray, but hx of bilateral
   effusions.
   - Switch ventilator to PS 5/5 as tolerated, lighten sedation, evaluate
   RISB and SBT for possibility of extubation on clinical criteria.
   - plan to discuss with family about goals of care again this afternoon,
   after discussion yesterday they may be interested in hospice.
   - pt currently on IV fluids only, will evaluate benefit of additional
   medications
   - nebs discontinued
   #Bradycardia: likely [**3-17**] cardiac dysfunction and hypothyroidism.  Will
   limit urine output moitoring at this time given goal of limited care
   -limit sedatives without compromising patient comfort
   -levothyroxine discontinued due to limited care
   -family does not wish to escalate care: no pressors, transcutaneous
   pacing, atropine, etc.
   # Labile BP:  Has been stable-hypertensive recently, although hx of
   hypotension in the past.  This is likely multifactorial in setting of
   poor po intake, bradycardia, possible sepsis, sedative use, diminished
   kidney function.  There was initial concern for sepsis given lactate
   and bacteremia (GPC in clusters and pairs) but otherwise no
   leukocytosis, tachycardia, fever.
   - IV fluids as needed, abx and pressors not indicated at this time per
   discussions with family
   # Coagulopathy:  Resolved on today
s [**Month/Day (2) **]
   # Acidemia
 resolved, however blood gas this morning 7.35.
   # ARF:  resolved
   # Transaminitis:  liver enzymes normalizing from likely shock liver
   after cardiac arrest
   - if we draw future [**Last Name (LF) **], [**First Name3 (LF) 116**] monitor
   # Anemia/Thrombocytopenia:  Baseline HCT is 40.
   - T&S
   - will hold on following crits as no currently drawing [**First Name3 (LF) **] unless
   clinically oriented.
   .
   # Hypercholesterolemia:
   - d/c
d simvastatin for elevated LFTs
   .
   # Osteoporosis: d/ced calcium, vitamin D
   .
   # Communication: Discussed goals of care with family on [**8-17**].  No
   pressors, transcutaneous pacing, CPR, etc.  The central line has been
   removed,  and the family understands that it may not be possible to
   obtain [**Month/Day (1) **] to monitor the patient.  They understand that the patient
   clinical status is deteriorating.  Pt
s family discussed their wishes
   for limited care at a family meeting on [**8-17**], although family does not
   wish to extubate at this time.  Will continue discussion with son
   [**Doctor Last Name 6971**] can be reached by phone: C - [**Telephone/Fax (1) 6980**]; H - [**Telephone/Fax (1) 6981**],
   and grandaughter (HCP), [**Name (NI) 6979**].  Family meeting planned for [**8-19**] to
   discuss possible extubation that is clinically indicated.
   ICU Care
   Nutrition: none -  limited care
   Glycemic Control:  none
 limited care
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   22 Gauge - [**2149-8-16**] 09:17 AM
   Prophylaxis:
   DVT:  none
 limited care
   Stress ulcer:  none
 limited care
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: pending family decision for future care

2149-08-20 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2149-8-19**] 02:00 PM
   - pt extubated without incident
   - pt to leave hospital, palliative care tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2149-8-19**] 10:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-8-20**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 67 (50 - 78) bpm
   BP: 123/37(57) {109/37(56) - 144/107(112)} mmHg
   RR: 19 (12 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45 kg (admission): 44.4 kg
             Total In:
                                                                  1,319 mL
                                                                    325 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  1,209 mL
                                                                    325 mL
   Blood products:
   Total out:
                                                                    405 mL
                                                                     75 mL
   Urine:
                                                                    405 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    914 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 250 (250 - 250) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///18/
   Ve: 3.4 L/min
   Physical Examination
   Physical unchanged from [**8-18**]
   GENERAL: sedated, nonresponsive, lying on side
   HEENT: PERRL, MMM, ETT secure in place,
    CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 2911**].
   LUNGS: clear to auscultation bilaterally, occasional wheeze in all lung
   fields
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: dependent edema, 2+ dorsalis pedis/ posterior tibial
   pulses. No clubbing, no cyanosis.
   SKIN: warm and well perfused.  No ecchymoses.
   NEURO: sedated, nonresponsive
   [**Last Name (un) 610**] / Radiology
   157 K/uL
   10.1 g/dL
   46 mg/dL
   0.7 mg/dL
   18 mEq/L
   4.2 mEq/L
   23 mg/dL
   104 mEq/L
   139 mEq/L
   32.9 %
   5.3 K/uL
        [image002.jpg]
                             [**2149-8-11**]  03:26 AM
                             [**2149-8-11**]  05:49 AM
                             [**2149-8-11**]  08:57 AM
                             [**2149-8-11**]  10:06 AM
                             [**2149-8-11**]  01:07 PM
                             [**2149-8-11**]  04:47 PM
                             [**2149-8-12**]  03:58 AM
                             [**2149-8-12**]  04:25 PM
                             [**2149-8-18**]  10:51 PM
                             [**2149-8-19**]  08:54 AM
   WBC
   7.9
   5.6
   5.1
   5.3
   Hct
   37.6
   33.0
   30.0
   32.9
   Plt
   133
   113
   94
   157
   Cr
   1.1
   0.8
   0.9
   0.7
   TropT
   0.13
   0.11
   TCO2
   26
   26
   30
   22
   Glucose
   92
   72
   67
   46
   Other [**Year (4 digits) **]: PT / PTT / INR:12.8/31.4/1.1, CK / CKMB /
   Troponin-T:259/9/0.11, ALT / AST:144/54, Alk Phos / T Bili:51/0.9,
   Amylase / Lipase:80/19, Differential-Neuts:85.0 %, Band:0.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.0 %, D-dimer:2574 ng/mL, Fibrinogen:122
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:335 IU/L, Ca++:8.4
   mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   87 yo Cantonese Speaking woman with dementia, h/o CVA, HTN,
   hyponatremia (thought [**3-17**] SIADH), who was brought to the ED by her
   family for lethargy, found to be in acute respiratory distress, and was
   intubated.
   The team has been speaking extensively to family members about goals of
   care for Mrs. [**Known lastname 7156**].  While she is not comfort measures only, the
   family has expressed that they want limited care for the Mr. [**Known lastname 7156**].
   # Respiratory failure:  Pt tolerated PSV for approx 7-8 hours
   yesterday, but overnight, experienced apneic events lasting 60 seconds
   long with desaturation into the 30%
s ([**Name8 (MD) 24**] RN report).  Apnea alarm was
   set at 60 seconds.  Currently trying to evaluate if patient is
   clinically eligible to be extubated.  No new xray, but hx of bilateral
   effusions.
   - Switch ventilator to PS 5/5 as tolerated, lighten sedation, evaluate
   RISB and SBT for possibility of extubation on clinical criteria.
   - plan to discuss with family about goals of care again this afternoon,
   after discussion yesterday they may be interested in hospice.
   - pt currently on IV fluids only, will evaluate benefit of additional
   medications
   - nebs discontinued
   #Bradycardia: likely [**3-17**] cardiac dysfunction and hypothyroidism.  Will
   limit urine output moitoring at this time given goal of limited care
   -limit sedatives without compromising patient comfort
   -levothyroxine discontinued due to limited care
   -family does not wish to escalate care: no pressors, transcutaneous
   pacing, atropine, etc.
   # Labile BP:  Has been stable-hypertensive recently, although hx of
   hypotension in the past.  This is likely multifactorial in setting of
   poor po intake, bradycardia, possible sepsis, sedative use, diminished
   kidney function.  There was initial concern for sepsis given lactate
   and bacteremia (GPC in clusters and pairs) but otherwise no
   leukocytosis, tachycardia, fever.
   - IV fluids as needed, abx and pressors not indicated at this time per
   discussions with family
   # Coagulopathy:  Resolved on today
s [**Month/Day (2) **]
   # Acidemia
 resolved, however blood gas this morning 7.35.
   # ARF:  resolved
   # Transaminitis:  liver enzymes normalizing from likely shock liver
   after cardiac arrest
   - if we draw future [**Last Name (LF) **], [**First Name3 (LF) 116**] monitor
   # Anemia/Thrombocytopenia:  Baseline HCT is 40.
   - T&S
   - will hold on following crits as no currently drawing [**First Name3 (LF) **] unless
   clinically oriented.
   .
   # Hypercholesterolemia:
   - d/c
d simvastatin for elevated LFTs
   .
   # Osteoporosis: d/ced calcium, vitamin D
   .
   # Communication: Discussed goals of care with family on [**8-17**].  No
   pressors, transcutaneous pacing, CPR, etc.  The central line has been
   removed,  and the family understands that it may not be possible to
   obtain [**Month/Day (1) **] to monitor the patient.  They understand that the patient
   clinical status is deteriorating.  Pt
s family discussed their wishes
   for limited care at a family meeting on [**8-17**], although family does not
   wish to extubate at this time.  Will continue discussion with son
   [**Doctor Last Name 6971**] can be reached by phone: C - [**Telephone/Fax (1) 6980**]; H - [**Telephone/Fax (1) 6981**],
   and grandaughter (HCP), [**Name (NI) 6979**].  Family meeting planned for [**8-19**] to
   discuss possible extubation that is clinically indicated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-8-11**] 02:26 PM
   22 Gauge - [**2149-8-16**] 09:17 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: